US09085576B2
Step 1: 5-Chloropyrido[3,4-b]pyrazin-2(1H)-one
A suspension 2-chloropyridine-3,4-diamine (2.5 g, 17.41 mmol) and a 50% solution of ethyl glyoxalate in toluene (3.45 mL, 17.41 mmol) in ethanol (34.8 mL) was stirred at reflux for 24 hours. The solution was cooled to −20° C. for 16 hours, and the resulting precipitate was collected by vacuum filtration and rinsed with ethanol. The crude product was purified via reverse-phase HPLC, eluting with 5-50% acetonitrile/0.1% trifluoroacetic acid in water/0.1% TFA, to afford the title compound (570 mg, 3.14 mmol). MS m/z=182 (M+H)+.

reactant | 2-chloropyridine-3,4-diamine | 17.41 mmol, 2.5 g | ClC1=NC=CC(=C1N)N | C5H6ClN3
reactant | ethyl glyoxalate | C(C=O)(=O)OCC | C4H6O3
reactant | toluene | 17.41 mmol, 3.45 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 34.8 mL | C(C)O | C2H6O
product | 5-Chloropyrido[3,4-b]pyrazin-2(1H)-one | 3.14 mmol, 570 mg | ClC1=NC=CC2=C1N=CC(N2)=O | C7H4ClN3O
